US07262185B2
2-bromopyridine (1.4 ml) was dissolved in diethylether (40 ml), and the mixture was cooled to −78° C. under argon atmosphere 1.6M n-butyllithium hexane solution (9.1 ml) was added dropwise to the solution, and the mixture was stirred for 30 minutes. The reaction solution was added dropwise to a solution of 2-methoxy-4-nitrobenzaldehyde (2.4 g) in tetrahydrofuran (600 ml) under argon atmosphere at −78° C. The mixture was allowed to be at room temperature and stirred overnight, water was added to the mixture, and the mixture was concentrated. The mixture was extracted with ethyl acetate, organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate/hexane), to give (2-methoxy-4-nitrophenyl)(pyridin-2-yl)methanol (1.9 g) as pale yellow crystals.

reactant | 2-bromopyridine | 1.4 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyllithium hexane | 1.6M, 9.1 ml | CCCCCC.C(CCC)[Li]
reactant | 2-methoxy-4-nitrobenzaldehyde | 2.4 g | COC1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C8H7NO4
reactant | water | O | H2O
solvent | diethylether | 40 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | (2-methoxy-4-nitrophenyl)(pyridin-2-yl)methanol | 1.9 g | COC1=C(C=CC(=C1)[N+](=O)[O-])C(O)C1=NC=CC=C1 | C13H12N2O4
